US06518257B1
(ii) Production of N-[4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-5-(trifluoromethyl)[1,1′-biphenyl]-3-yl]acetamide
By the reaction in the same manner as in Example 4-(iii) using N-[4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-5-(trifluoromethyl)[1,1′-biphenyl]-3-yl]acetamide (1.85 g) and pyridine hydrochloride (551 mg), the colorless amorphous title compound (591 mg) was obtained.

reactant | N-[4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-5-(trifluoromethyl)[1,1′-biphenyl]-3-yl]acetamide | 1.85 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)NC(C)=O | C41H36F3N3O2
reactant | pyridine hydrochloride | 551 mg | Cl.N1=CC=CC=C1
product | N-[4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-5-(trifluoromethyl)[1,1′-biphenyl]-3-yl]acetamide | 591 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)NC(C)=O | C22H22F3N3O2
